US04656291
Synthesis of Debrisoquin
Tetrahydroisoquinoline (0.013 m) is treated with aminoiminomethanesulfonic acid (0.01 m) at ambient temperature. After completion of the reaction, it is diluted with acetonitrile, cooled and the solid product is collected by filtration.

reactant | Tetrahydroisoquinoline | C1NCCC2=CC=CC=C12 | C9H11N
reactant | aminoiminomethanesulfonic acid | NN=CS(=O)(=O)O | CH4N2O3S
reactant | acetonitrile | C(C)#N | C2H3N
product | Debrisoquin | C=1C=CC2=C(C1)CCN(C2)C(=N)N | C10H13N3
